US07173031B2
A) 4-(1H-Pyrrolo[2,3-b]pyridin-4-yloxy)-2-fluorobenzenamine
To a solution of 4-chloro-1H-pyrrolo[2,3-b]pyridine (50 mg, 0.33 mmol, prepared according to Thibault, C. et al. Org. Lett. 2003, 5, 5023) in NMP (0.5 mL) were added 4-amino-3-fluorophenol (51 mg, 0.40 mmol) and DIEA (0.1 mL, 0.57 mmol). The mixture was heated at 250° C. in a microwave oven for 1 h and then cooled to room temperature. To the mixture was added NaH (10 mg, 0.4 mmol) and the mixture was again heated at 250° C. for 3 h. After cooling, the mixture was diluted with H2O and extracted with EtOAc. The organic layer was washed with H2O, brine, and dried over MgSO4. After filtration and concentration in vacuo, the residue was purified by flash column chromatography (ISCO RediSep® silica gel cartridge) to give the title compound (15 mg, 19%). MS (ESI) m/z 244.1 (M+H)+.

reactant | 4-chloro-1H-pyrrolo[2,3-b]pyridine | 0.33 mmol, 50 mg | ClC1=C2C(=NC=C1)NC=C2 | C7H5ClN2
reactant | 4-amino-3-fluorophenol | 0.40 mmol, 51 mg | NC1=C(C=C(C=C1)O)F | C6H6FNO
reactant | DIEA | 0.57 mmol, 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaH | 0.4 mmol, 10 mg | [H-].[Na+]
solvent | NMP | 0.5 mL | CN1CCCC1=O | C5H9NO
solvent | H2O | O | H2O
product | 4-(1H-Pyrrolo[2,3-b]pyridin-4-yloxy)-2-fluorobenzenamine | 15 mg, 19% | N1C=CC=2C1=NC=CC2OC2=CC(=C(C=C2)N)F | C13H10FN3O
